US05864039
(3S)-1-((S)-1-Phenylethyl)-5-oxo-3-pyrrolidinecarboxamide (150 g) was dissolved in tetrahydrofuran (2.5 l), and sodium borohydride (138 g) was added with stirring. Conc. sulfuric acid (130 ml) was dropwise added under ice-cooling. The mixture was stirred for 1 hr at room temperature, and further at refluxing temperature for 10 hr. 6N Hydrochloric acid (300 ml) was dropwise added under ice-cooling, and the mixture was stirred at refluxing temperature for 4 hr. The solvent was evaporated under reduced pressure, a 3N sodium hydroxide solution was added to make same alkaline, and the mixture was extracted with chloroform. The extract was dried over magnesium sulfate, concentrated under reduced pressure and distilled under reduced pressure to give 95 g of (3R)-3-aminomethyl-1-((S)-1-phenylethyl)pyrrolidine.

reactant | (3S)-1-((S)-1-Phenylethyl)-5-oxo-3-pyrrolidinecarboxamide | 150 g | C1(=CC=CC=C1)[C@H](C)N1C[C@H](CC1=O)C(=O)N | C13H16N2O2
reactant | sodium borohydride | 138 g | [BH4-].[Na+]
reactant | sulfuric acid | 130 ml | S(O)(O)(=O)=O | H2O4S
reactant | Hydrochloric acid | 6N, 300 ml | Cl | ClH
solvent | tetrahydrofuran | 2.5 l | O1CCCC1 | C4H8O
product | (3R)-3-aminomethyl-1-((S)-1-phenylethyl)pyrrolidine | 95 g | NC[C@@H]1CN(CC1)[C@@H](C)C1=CC=CC=C1 | C13H20N2
